*INA199A3
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: 199A3
* Date: 30JAN2015
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.3.100.244 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS469D –MAY 2009–REVISED NOVEMBER 2012
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* Simulation model notes:
* 1) CMRR and PSRR responses closely track the product to approximately 5kHz,
*    but then begin to flatten out as the frequency is increased. The actual product 
*    continues to roll-off as frequency is increased.
* 2) The simulated common-mode voltage transient response exhibits peaks associated 
*    with the input pulse edges that are inverted relative to the datasheet plot. 
*    Otherwise the time characteristics and peak amplitude are correct.
*
* Begin INA199A3
*****************************************************************************
.SUBCKT INA199A3 IN+ IN- V+ GND OUT REF
XDP6         GND IN-   D_Z26V
XDP5         GND IN+   D_Z26V
R4          INp IN+ 4.9999875K 
R3          INm IN- 5.0000125K TC=1.5U
XU1          IN- IN+ GND INp OUT V+ INm   199A3Xopa
XDP4         GND REF   D_DIS1PN0_52
XDP3         REF V+   D_DIS1PN0_52
XDP2         GND OUT   D_DIS1PN0_52
XDP1         OUT V+   D_DIS1PN0_52
R2          REF INp 1.0000025MEG 
R1          OUT INm 999.9975K TC=1.5U

*
.SUBCKT 199A3Xopa VBus1 VBus2 GND IN+ OUT AVDD IN-
VS3         IGND 34 600M
VS1         35 IGND 600M
VLo         VM VLo 33.2616122199
VHi         VHi VM 26.6092897759
Vps         36 GND 5
IS2         38 39 1U
VS1_2       29 IGND 26
VS2         1V GND 1
ISb1        49 GND 1U
VSr         50 21 120.3M
ISr         47 21 16U
V2          51 VLo 392.9666571583M
V1          VHi 52 392.9666571583M
EVSe        VAmm VAm POLY(2) Vecm VM Veps VM 0 1 -1 
SWMD1       AVDD VGP Shdown GND  S_VSWITCH_1
SWMD1_2     VG GND Shdown GND  S_VSWITCH_2
XD11         33 34   D_D
*
EVCVS1      VB VV 33 IGND  30
XDP2         35 33   D_D
*
C33         VB OUT 5P 
XMD1         OUT VG GND   DRVMOS_1
*
R201        37 VM 19.99999MEG 
L191        37 VM 15.9154863514M 
R191        Veps 37 10 
G8ps        VM Veps 36 AVDD  7.9394101858N
Rpsrr1      38 39 1G 
XD5          VGP 40   D_ZR_2V
*
EVMP1       40 AVDD 38 AVDD  1
Rdn2        VGP 40 33.2333063684K 
Gdn2        40 VGP VV VM  124.84365U
XD4          41 VG   D_ZR_2V
*
EVMD1       41 GND 39 GND  1
Rdn1        VG 41 33.2333063684K 
Gdn1        41 VG VV VM  124.84365U
XDPO1        39 38   D_D_1
*
C5          42 VG 2.5P 
C4          VGP 42 2.5P 
Rf1         42 OUT 2K 
XT4          38 38 AVDD AVDD   DRVPMOS
*
XMP1         OUT VGP AVDD AVDD   DRVPMOS_1
*
XT3          39 39 GND   DRVMOS
*
R210        43 VM 3.0612144898MEG 
L4          43 VM 243.6037089578M 
R20         Vecm 43 10 
G8          VM Vecm 17 VM  1.5822914842N
XD3          GND RT   D_D10
GIEEc       RT GND 1V Shdown  37U
EVCVS5      19 IGND 1V Shdown  2.1
*EAVDD       IAVDD 0 VALUE = {IF(V(SHDOWN,GND)<0.5,2.1,0)}
EAVDD       IAVDD 0 VALUE= { 1.05*SGN(0.5-V(Shdown,GND)) + 1.05 }
EGND        IGND 0 GND 0  1
EVM         VM IGND AVDD IGND  500M
XU3          IN+ 45 44   VOST

XD10         IGND 46   D_D10_1

GIEE        46 IGND 1V Shdown  2U
Rp2         RT GND 200MEG 
XU2          GND Vref_VBus 20 GND   HYSTCOMP
+ PARAMS: VTHRES=-0.5 VHYST=40M VOUTH=1 VOUTL=0 ROUT=100 TDEL=10N 
XSDComp      GND AVDD Shdown GND   HYSTCOMP
+ PARAMS: VTHRES=-2.6 VHYST=40M VOUTH=1 VOUTL=0 ROUT=100 TDEL=100n 
XD9          AVDD 47   D_D9

Cf6         48 GND 1P 
Cf5         RT GND 2.5P 
Cf4         21 GND 10P 
XDZb1        49 48   D_ZB1

XDb1         GND 49   D_DB1

Rpr         21 GND 2.1MEG 
XDr          50 47   D_DR

XDZr         GND 21   D_ZR_2_1V

Rbus2       VBus2 48 1.2987K 
Rbus1       VBus1 48 1.3K 
XVrVbComp    19 48 Vref_VBus GND   HYSTCOMP
+ PARAMS: VTHRES=0 VHYST=42M VOUTH=1 VOUTL=0 ROUT=100 TDEL=10N 
SWVbus      RT 48 20 Shdown  S_VSWITCH_3
SWVref      RT 21 Vref_VBus Shdown  S_VSWITCH_4
XT2          VAmm 45 46   Q_NMOS

XT1          VAp IN- 46   Q_NMOS

R10         24 IGND 100K 
R9          IAVDD 24 100K 
R8          VB VM 32.9146618566MEG 
G2          VM VB VAm VAp  120.9513171632U
XD2          51 VB   D_DIS1PN0_1

XD1          VB 52   D_DIS1PN0_1

C1          VAp VAmm 24.0625P 
R4g         29 VAmm 8.2677892515K 
R3g         29 VAp 8.2677892515K 
R2c         17 IN+ 500G 
R1c         IN- 17 500G 
.MODEL S_VSWITCH_1 VSWITCH (RON=1K ROFF=100MEG VON=700M VOFF=300M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1K ROFF=100MEG VON=700M VOFF=300M)
.MODEL S_VSWITCH_3 VSWITCH (RON=100M ROFF=100MEG VON=700M VOFF=300M)
.MODEL S_VSWITCH_4 VSWITCH (RON=100M ROFF=100MEG VON=700M VOFF=300M)
.ENDS

.SUBCKT D_D       1    2
D1 1 2  DD
.MODEL DD D( IS=0.9E-18 N=1.0 )
.ENDS D_D 

.SUBCKT DRVMOS_1  D G S
*                D G S
M6 D G S S DRVMOS
.MODEL DRVMOS NMOS LEVEL=1 L=1.0U W=55U KP=100U VTO=1.0 RS=10.0 LAMBDA=20E-3 PHI=3.3 
.ENDS DRVMOS_1 

.SUBCKT D_ZR_2V       1    2
D1 1 2  D_2V
*C1 1 2 1P
.MODEL D_2V D( IS=1P N=0.1 BV=2.0 IBV=1.0M RS=1 )
.ENDS 

.SUBCKT D_D_1       1    2
D1 1 2  DD
.MODEL DD D( IS=10F N=0.1 RS=1 )
.ENDS D_D_1 

.SUBCKT DRVPMOS  D G S B
*                D G S B
M1 D G S B DRVPMOS
.MODEL DRVPMOS PMOS LEVEL=1 L=1.0U W=1.9U KP=100U VTO=-1.0 RS=1.0 LAMBDA=20E-3 PHI=3.3 
.ENDS DRVPMOS 

.SUBCKT DRVPMOS_1  D G S B
*                D G S B
M1 D G S B DRVPMOS
.MODEL DRVPMOS PMOS LEVEL=1 L=1.0U W=95U KP=100U VTO=-1.0 RS=10.0 LAMBDA=20E-3 PHI=3.3 
.ENDS DRVPMOS_1 

.SUBCKT DRVMOS  D G S
*                D G S
M6 D G S S DRVMOS
.MODEL DRVMOS NMOS LEVEL=1 L=1.0U W=1.1U KP=100U VTO=1.0 RS=1.0 LAMBDA=20E-3 PHI=3.3 
.ENDS DRVMOS 

.SUBCKT D_D10       1    2
D1 1 2  DD
CD 1 2 1P
.MODEL DD D( IS=10F N=2.0 RS=1 )
.ENDS 

.SUBCKT VOST  1 2 3
RT 30 0 RMOD 1 
IT 0 30 1
E2 3 0 VALUE = { V(30,0) + 26 } 
E1 2 1 TABLE {V(3,0)} ((-50,1U) (+10,2U) (+21,1.5U) (+25,500N) (+28,100N) (+100,1N) (+110,1U) (+125,5U) (+150,18U))
.MODEL RMOD RES (TC1=1 TC2=0 TCE=0 )
.ENDS

.SUBCKT D_D10_1       1    2
D1 1 2  DD
CD 1 2 10F
.MODEL DD D( IS=1F N=2.0 RS=1 )
.ENDS 


.SUBCKT HYSTCOMP  IN+ IN- OUT GND 
+ PARAMS: VTHRES=0 VHYST=1 VOUTH=5 VOUTL=0 ROUT=1 TDEL=1N
*
*.PARAM RDEL = {IF ( (TDEL > 1E-15) & (ROUT < 1), 1, ROUT ) } 
.PARAM RDEL = {ROUT}
.PARAM VOUTM={(VOUTH+VOUTL)/2}
.PARAM VTHH={VTHRES+VHYST}
.PARAM VTHL={VTHRES-VHYST}
.PARAM COUT={TDEL/(0.693*(RDEL+1U))}
.PARAM VTHM={(VTHH+VTHL)/2}
.PARAM VTHD2={(VTHH-VTHL)/2}
.PARAM VOUTD2={(VOUTH-VOUTL)/2}
*
*ETHR THR GND VALUE= { IF ( V(OUT,GND) < {VOUTM}, {VTHH}, {VTHL}) }
ETHR THR GND VALUE= { VTHD2*SGN(VOUTM-V(OUT,GND)) + VTHM }
*EOUT OUT GND VALUE= { IF ( V(IN+,IN-) > V(THR,GND), VOUTH + RDEL*I(EOUT) , VOUTL + RDEL*I(EOUT)  ) }
EOUT OUT GND VALUE= { (VOUTD2*SGN(V(IN+,IN-) - V(THR,GND)) + VOUTM) + RDEL*I(EOUT) }
COUT OUT GND {COUT}
.ENDS

.SUBCKT D_D9       1    2
D1 1 2  DD
CD 1 2 1P
.MODEL DD D( IS=5.4F  N=1.0 RS=1)
.ENDS

.SUBCKT D_ZB1        1    2
D1 1 2  D_2_1V
CD 1 2 1P
.MODEL D_2_1V D( IS=1P N=1.0 BV=2.1 IBV=1.0U RS=1 )
.ENDS 

.SUBCKT D_DB1       1    2
D1 1 2  DD
CD 1 2 1P
.MODEL DD D( IS=1P N=0.5 RS=1 )
.ENDS D_DB1 

.SUBCKT D_DR       1    2
D1 1 2  DD
CD 1 2 1P
.MODEL DD D( IS=10F N=0.5 RS=1 )
.ENDS 

.SUBCKT D_ZR_2_1V       1    2
D1 1 2  D_2_1V
CD 1 2 1P
.MODEL D_2_1V D( IS=1P N=0.2 BV=2.1 IBV=16.0U RS=1 )
.ENDS 

.SUBCKT Q_NMOS  D G S
*            D G S
MNI2 D G S S Q_NMOS
.MODEL Q_NMOS NMOS LEVEL=1 L=1.0U W=73.1461U KP=100.0U VTO=0.7
.ENDS Q_NMOS 

.SUBCKT D_DIS1PN0_1       1    2
D1 1 2  DD
CD 1 2 1P
.MODEL DD D( IS=1P N=1.0 RS=10)
.ENDS 

.SUBCKT D_Z26V       1    2
D1 1 2  D_26V
CD 1 2 100F
.MODEL D_26V D( IS=1P N=0.52 BV=26.3 IBV=5.0M RS=10 )
.ENDS D_Z26V 

.SUBCKT D_DIS1PN0_52       1    2
D1 1 2  DDIS1PN0_52
CD 1 2 100F
.MODEL DDIS1PN0_52 D( IS=1P N=0.52 RS=10 )
.ENDS
**
.ENDS INA199A3